US07528262B2
2-{1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indol-2-yl}ethanol.
2-[2-(tert-Butyldimethylsilanyloxy)ethyl]-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole (0.4 mmol) was dissolved in tetrahydrofuran (2 mL) under N2, and tetrabutylammonium fluoride (0.44 mL, 1 M in tetrahydrofuran, 0.44 mmol) was added. The reaction was stirred at room temperature for 3 hours, then quenched with saturated ammonium chloride. The mixture was diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic extracts were dried over MgSO4 and concentrated. The residue was purified by semi-prep LC-MS to give the desired product, 15.8 mg. LC-MS (C23H28N2O2 calc'd 364) m/z 365 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.61-7.59 (m, 1H), 7.24-7.20 (m, 2H), 7.13-7.07 (m, 2H), 7.03-7.00 (m, 3H), 6.48 (s, 1H), 4.09 (t, J=6.3 Hz, 2H), 3.75 (t, J=6.6 Hz, 2H), 2.89 (t, J=6.6 Hz, 2H), 2.66 (t, J=7.5 Hz, 2H), 2.60-2.49 (m, 4H), 2.10-2.01 (m, 2H), 1.85-1.76 (m, 4H).

reactant | 2-[2-(tert-Butyldimethylsilanyloxy)ethyl]-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole | 0.4 mmol | [Si](C)(C)(C(C)(C)C)OCCC=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)OCCCN1CCCC1 | C29H42N2O2Si
reactant | tetrabutylammonium fluoride | 0.44 mmol, 1 M, 0.44 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-{1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indol-2-yl}ethanol | N1(CCCC1)CCCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CCO | C23H28N2O2
